US09284333B2
To a solution of 6-((S)-2-methyl-pyrrolidine-1-carbonyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid (Comp. No. 7c) (75 mg, 0.270 mmol) in dimethylformamide (2 ml) was added 1-hydroxybenzotriazole (41 mg, 0.30 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (58 mg, 0.30 mmol). The mixture was stirred for 2 h at 50° C., then (R)-1-(3-chloro-4-trifluoromethyl-phenyl)-propylamine hydrochloride (81 mg, 0.3 mmol) and triethylamine (82 mg, 0.81 mmol) were added and the mixture was stirred at 25° C. overnight. The mixture was filtered through a small filter cartridge and the solution was purified by reverse phase HPLC (acetonitrile/water gradient with 0.1% trifluoroacetic acid) to give 98 mg (73%) of 6-((S)-2-methyl-pyrrolidine-1-carbonyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid [(R)-1-(3-chloro-4-trifluoromethyl-phenyl)-propyl]-amide as white solid. LC/MS (method 3): Rt=2.03 min; m/z=498.22 (M+H+). 1H-NMR: δ (ppm)=8.20 (1H, d), 7.83 (1H, d), 7.67 (1H, s), 7.50 (1H, d), 7.25 (1H, s), 4.96 (1H, d), 4.83-4.91 (m, 2H), 4.18-4.30 (2H, m), 3.92-4.01 (2H, m), 3.79-3.85 (1H, m), 3.69 (2H, bs), 2.07 (1H, m), 1.96 (1H, m), 1.76-1.85 (3H, m), 1.54-1.60 (1H, m), 1.19 (3H, d), 0.90 (3H, t).

reactant | 6-((S)-2-methyl-pyrrolidine-1-carbonyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid | C[C@@H]1N(CCC1)C(=O)C1=CC(=C2COCCN21)C(=O)O | C14H18N2O4
reactant | 1-hydroxybenzotriazole | 0.30 mmol, 41 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.30 mmol, 58 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | (R)-1-(3-chloro-4-trifluoromethyl-phenyl)-propylamine hydrochloride | 0.3 mmol, 81 mg | Cl.ClC=1C=C(C=CC1C(F)(F)F)[C@@H](CC)N
reactant | triethylamine | 0.81 mmol, 82 mg | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 6-((S)-2-methyl-pyrrolidine-1-carbonyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid [(R)-1-(3-chloro-4-trifluoromethyl-phenyl)-propyl]-amide | 98 mg, 73% | ClC=1C=C(C=CC1C(F)(F)F)[C@@H](CC)NC(=O)C=1C=C(N2C1COCC2)C(=O)N2[C@H](CCC2)C | C24H27ClF3N3O3
